US07893085B2
3-(Nonafluorobutane-1-sulfonyloxy)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester
To a stirred solution of 3-hydroxy-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester (1.3 g, 5.82 mmol) and DMAP (35 mg, 0.29 mmol) in DCM (10 ml) at 0° C. was added DIPEA (2.5 ml, 14.0 mmol) and nonafluorobutylsulfonyl fluoride (1.36 ml, 7.56 mmol). After 10 minutes the reaction mixture was warmed to room temperature and stirred for an additional 20 hours. The reaction mixture was diluted with DCM (50 ml) and washed with water (30 ml). The organic phase was isolated, dried over sodium sulphate, filtered and evaporated to give a brown oil. The oil was purified by flash chromatography (Si-SPE, pentane:diethyl ether, gradient 100:0 to 70:30) to afford the title compound as a colourless oil which crystallised on standing (420 mg, 14%). LCMS (method B): RT=4.46 min, M+H+=508.

reactant | 3-hydroxy-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester | 5.82 mmol, 1.3 g | C(C)OC(=O)C1=C(C=2C=NC=CC2S1)O | C10H9NO3S
reactant | DIPEA | 14.0 mmol, 2.5 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | nonafluorobutylsulfonyl fluoride | 7.56 mmol, 1.36 ml | FC(C(C(S(=O)(=O)F)(F)F)(F)F)(C(F)(F)F)F | C4F10O2S
catalyst | DMAP | 0.29 mmol, 35 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(Nonafluorobutane-1-sulfonyloxy)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=2C=NC=CC2S1)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C14H8F9NO5S2
